US07253165B2
Synthesis of (S)-1-[4-(6-fluoro-benzo[d]isoxazol-3-yl)-phenoxy]-3-(1,2,3,4-tetrahydro-β-carbolin-2-yl)-propan-2-ol (Scheme III, Compound 1)
The title compound is prepared from a mixture of (S)-6-fluoro-3-(4-oxiranylmethoxy-phenyl)-benzo[d]isoxazole in dimethylformamide and noreleagnine in ethanol essentially as described above in Example 21. Purity by LC/MS=99%, [M+H]+=458.

reactant | (S)-6-fluoro-3-(4-oxiranylmethoxy-phenyl)-benzo[d]isoxazole | FC1=CC2=C(C(=NO2)C2=CC=C(C=C2)OC[C@H]2OC2)C=C1 | C16H12FNO3
reactant | noreleagnine | C1CNCC2=C1C3=CC=CC=C3N2 | C11H12N2
solvent | dimethylformamide | CN(C=O)C | C3H7NO
solvent | ethanol | C(C)O | C2H6O
product | (S)-1-[4-(6-fluoro-benzo[d]isoxazol-3-yl)-phenoxy]-3-(1,2,3,4-tetrahydro-β-carbolin-2-yl)-propan-2-ol | FC1=CC2=C(C(=NO2)C2=CC=C(OC[C@H](CN3CC=4NC5=CC=CC=C5C4CC3)O)C=C2)C=C1 | C27H24FN3O3
